US07235700B2
15-Bromo-pentadecan-1-ol (2.3 g, 7.49 mmol) dissolved in methylene chloride (23 mL) was mixed with trimethylamine (2.1 mL, 14.98 mmol), t-butyldimethylsilyl chloride (2.03 g, 13.48 mmol), and dimethylaminopyridine (457.6 mg, 3.74 mmol). The mixture was stirred for one hour at room temperature. Subsequently, aqueous saturated ammonium chloride solution was added to the reaction mixture for separation into a methylene chloride layer (200 mL) and an aqueous layer (200 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by means of silica gel column flash chromatography (hexane/ethyl acetate=99/1), to thereby afford 2.98 g (7.07 mmol) of 15-bromo-1-(t-butyldimethylsiloxy)pentadecane.

reactant | 15-Bromo-pentadecan-1-ol | 7.49 mmol, 2.3 g | BrCCCCCCCCCCCCCCCO | C15H31BrO
reactant | trimethylamine | 14.98 mmol, 2.1 mL | CN(C)C | C3H9N
reactant | t-butyldimethylsilyl chloride | 13.48 mmol, 2.03 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylaminopyridine | 3.74 mmol, 457.6 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 23 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 15-bromo-1-(t-butyldimethylsiloxy)pentadecane | 7.07 mmol, 2.98 g, Yield: 94.4% | BrCCCCCCCCCCCCCCCO[Si](C)(C)C(C)(C)C | C21H45BrOSi
